US06784183B2
Step 3: 4-(5-Nitroindan-2-yl)-1H-imidazole
5 g of 4-indan-2-yl-1H-imidazole are dissolved at 0° C. in 140 ml of pure sulphuric acid, and then 1 equivalent of urea nitrate in powder form is added in small portions. The reaction mixture is poured onto ice, rendered alkaline using sodium hydroxide solution and extracted with ethyl acetate. The expected product is obtained after evaporation.

reactant | 4-indan-2-yl-1H-imidazole | 5 g | C1C(CC2=CC=CC=C12)C=1N=CNC1 | C12H12N2
reactant | urea nitrate | 1 equivalent | [N+](=O)(O)[O-].NC(=O)N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 140 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(5-Nitroindan-2-yl)-1H-imidazole | [N+](=O)([O-])C=1C=C2CC(CC2=CC1)C=1N=CNC1 | C12H11N3O2
